US06713474B2
A mixture of 5-(4-phenoxyphenyl)-7-(4-piperidyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.096 g, 0.249 mmol) in dichloroethane (5 mL) was treated with 2-imidazolcarboxaldehyde (0.026 g, 0.274 mmol) and glacial acetic acid (0.030 g, 0.498 mmol). The reaction mixture stirred for one hour at 0° C. under nitrogen atmosphere. Sodium triacetoxyborohydride (0.132 g, 0.623 mmol) was added to the reaction mixture and stirred at 0° C. for 20 minutes. The ice bath was then removed, and the reaction mixture stirred for 18 hours at ambient temperature under a nitrogen atmosphere. Additional 2-imidazolcarboxaldehyde (0.096 g, 0.996 mmol) was added to the reaction mixture, and stirred for an additional 24 hours. Acetonitrile (2 mL) was added to the reaction mixture, and then was allowed to stir for an additional 72 hours. Sodium bicarbonate (0.126 g, 1.49 mmol) in water (5 mL) was added to the reaction mixture and stirred for 2 hours. The layers were partitioned, and the aqueous layer was extracted with dichloromethane (150 mL). The combined organic layers were washed with water and brine (250 mL each), dried over magnesium sulfate, filtered and evaporated under reduced pressure. The front-running impurity (by TLC analysis) was removed by recrystallization using ethyl acetate: heptane. The filtrate from the recrystallization was evaporated under reduced pressure, and purified using a Flashtube chromatography column using 20% methanol in dichloromethane was the eluent. Some impure product was isolated and this was purified by preparative HPLC. 7-[1-(1H-2-imidazolylmethyl)-4-piperidyl]-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine was isolated and was dried on the lyophilizer. Dichloromethane (3 mL) and 1 N sodium hydroxide (1 mL) was added to the product. The layers were separated using an Empore extraction cartridge. The dichloromethane layer was collected and evaporated under reduced pressure to give 7-[1-(1H-2-imidazolylmethyl)-4-piperidyl]-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine as a free base (0.011 g, 10%). 1H NMR (CDCl3, 400 MHz) δ 8.31(s, 1H), 7.43-7.35(m, 4H), 7.2-7.1(m, 1H), 7.09-7.00 (m, 7H), 5.18(s, 2H), 4.75-4.69(m, 1H), 3.73(s, 2H), 3.03-2.96(m, 2H), 2.43-2.37(m, 2H), 2.15-2.08(m, 4H); Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile—0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 5.363 min.

reactant | 5-(4-phenoxyphenyl)-7-(4-piperidyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.249 mmol, 0.096 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCNCC2 | C23H23N5O
reactant | 2-imidazolcarboxaldehyde | 0.274 mmol, 0.026 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | acetic acid | 0.498 mmol, 0.030 g | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.623 mmol, 0.132 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2-imidazolcarboxaldehyde | 0.996 mmol, 0.096 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | Sodium bicarbonate | 1.49 mmol, 0.126 g | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | water | 5 mL | O | H2O
solvent | Acetonitrile | 2 mL | C(C)#N | C2H3N
product | 7-[1-(1H-2-imidazolylmethyl)-4-piperidyl]-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | N1C(=NC=C1)CN1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C27H27N7O
